US07501411B2
Step 1: N′-(3,6-Dibromo-pyrazin-2-yl)-N,N-dimethylformamidine
A mixture of 3,6-dibromo-pyrazin-2-ylamine (15.37 g, 60.80 mmol) and N,N-dimethylformamide dimethyl acetal (10.1 mL, 76.00 mmol), suspended in ethanol (150 mL), is refluxed for 2 hours. The reaction mixture is evaporated in vacuo affording the title compound (18.6 g). 1H-NMR (400 MHz, CDCl3) δ(ppm) 3.20 (s, 3H), 3.21 (s, 3H), 7.93 (s, 1H), 8.48 (s, 1H). LCMS: Rt 3.81 min (99.1%), m/z (APCI) 307 (M+H)+.

reactant | 3,6-dibromo-pyrazin-2-ylamine | 60.80 mmol, 15.37 g | BrC=1C(=NC(=CN1)Br)N | C4H3Br2N3
reactant | N,N-dimethylformamide dimethyl acetal | 76.00 mmol, 10.1 mL | COC(N(C)C)OC | C5H13NO2
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | N′-(3,6-Dibromo-pyrazin-2-yl)-N,N-dimethylformamidine | 18.6 g | BrC=1C(=NC(=CN1)Br)N=CN(C)C | C7H8Br2N4
